US09120969B2
6-(4-{Difluoro[4-(6-hydroxyhex-1-ynyl)phenoxy]methyl}-3,5-difluorophenyl)-hex-5-yn-1-ol is hydrogenated to completion on palladium/active carbon catalyst in THF. The catalyst is filtered off, the solvent is removed in vacuo, and the crude product is chromatographed on silica gel with toluene/ethyl acetate (1:2), giving 6-(4-{difluoro[4-(6-hydroxyhexyl)-phenoxy]methyl}-3,5-difluorophenyl)hexan-1-ol as a colourless solid.

reactant | 6-(4-{Difluoro[4-(6-hydroxyhex-1-ynyl)phenoxy]methyl}-3,5-difluorophenyl)-hex-5-yn-1-ol | FC(C1=C(C=C(C=C1F)C#CCCCCO)F)(OC1=CC=C(C=C1)C#CCCCCO)F | C25H24F4O3
solvent | THF | C1CCOC1 | C4H8O
product | 6-(4-{difluoro[4-(6-hydroxyhexyl)-phenoxy]methyl}-3,5-difluorophenyl)hexan-1-ol | FC(C1=C(C=C(C=C1F)CCCCCCO)F)(OC1=CC=C(C=C1)CCCCCCO)F | C25H32F4O3
